US06172256B2
Preparation of 6-bromo-8-chlorocoumarin
To a 5L round bottom flask fitted with a mechanical stirrer and condenser was placed 3-chloro-5-bromosalicylaldehyde (554.1 g, 2.35 mol, 1 equiv.), acetic anhydride (1203 g, 11.8 mol, 5 equiv.) and triethylamine (237.4 g, 2.35 mol, 1 equiv.). The reaction solution was heated at reflux (131-141° C.) overnight. The dark brown reaction mixture was cooled to 50° C. and ice (2 L) added (ice-bath cooling) with stirring. After one hour the mixture was filtered and the filtrate combined with EtOH (1 L). To this mixture was added EtOH (300 mL) and the reaction mixture stirred for one hour. The precipitate that formed was collected by filtration and washed with water: EtOH (3×1.3 L), vacuum and dried then dried on a fluid-bed drier. The total isolated yield is 563 g or 92%.

reactant | 3-chloro-5-bromosalicylaldehyde | 2.35 mol, 554.1 g, 1 equiv. | ClC1=C(C(C=O)=CC(=C1)Br)O | C7H4BrClO2
reactant | acetic anhydride | 11.8 mol, 1203 g, 5 equiv. | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 2.35 mol, 237.4 g, 1 equiv. | C(C)N(CC)CC | C6H15N
product | 6-bromo-8-chlorocoumarin | BrC=1C=C2C=CC(OC2=C(C1)Cl)=O | C9H4BrClO2
